### PR TITLE
[Merged by Bors] - chore(RingTheory): split `AlgebraicIndependent.lean`

### PR DESCRIPTION
**Pull request by Vierkantor**
As a follow-up to splitting `RingTheory/Algebraic.lean`, also split `AlgebraicIndependent.lean`.

This PR creates the following new files:
* `AlgebraicIndependent/Defs.lean`: definition of `AlgebraicIndependent` and `IsTranscendenceBasis`
* `AlgebraicIndependent/Basic.lean`: basic results on `AlgebraicIndependent`
* `AlgebraicIndependent/TranscendenceBasis.lean`: basic results on `TranscendenceBasis`
* `AlgebraicIndependent/Adjoin.lean`: relating `AlgebraicIndependent` and `IntermediateField.adjoin`
* `AlgebraicIndependent/Transcendental.lean`: relating `AlgebraicIndependent`, `Transcendental` and `Algebraic`
* `AlgebraicIndependent/RankAndCardinality.lean`: about the rank/cardinality of `TranscendenceBasis`es

---

- [x] depends on: #19370

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by acmepjz** [comment]
Good work! I think I'll come back after #19370 is merged, as currently the diffs are too big.

File: Mathlib/RingTheory/AlgebraicIndependent/Transcendental.lean [hunk 1]
```diff
@@ -0,0 +1,156 @@
...
+  exact False.elim (hx.transcendental i (Algebra.IsAlgebraic.isAlgebraic _))
+
+end AlgebraicIndependent
+
+open AlgebraicIndependent
+
+namespace AlgebraicIndependent
+
+end AlgebraicIndependent
+
```
Comment (alreadydone) [inline Mathlib/RingTheory/AlgebraicIndependent/Transcendental.lean:81]:
```suggestion
```

File: Mathlib/RingTheory/AlgebraicIndependent/Adjoin.lean [hunk 2]
```diff
@@ -0,0 +1,85 @@
...
+variable {ι : Type*} {ι' : Type*} (R : Type*) {K : Type*}
+variable {A : Type*} {A' : Type*}
+variable (x : ι → A)
+variable [CommRing R] [CommRing A] [CommRing A'] [Algebra R A] [Algebra R A']
+
+variable {R} {x}
+
+open AlgebraicIndependent
+
+namespace AlgebraicIndependent
```
Comment (alreadydone) [inline Mathlib/RingTheory/AlgebraicIndependent/Adjoin.lean:41]: These are now unused.
```suggestion
namespace AlgebraicIndependent
```

File: Mathlib/RingTheory/AlgebraicIndependent/Adjoin.lean [hunk 3]
```diff
@@ -0,0 +1,85 @@
...
+
+section reprField
```
Comment (alreadydone) [inline Mathlib/RingTheory/AlgebraicIndependent/Adjoin.lean:43]: Do we still need this section? It has the same scope as the `namespace` section enclosing it.

File: Mathlib/RingTheory/AlgebraicIndependent/Defs.lean [hunk 4]
```diff
@@ -0,0 +1,163 @@
...
+
+open Function Set Subalgebra MvPolynomial Algebra
+
+open scoped Classical
+
+universe u v w
+
+variable {ι : Type*} {ι' : Type*} (R : Type*) {K : Type*}
+variable {A : Type*} {A' : Type*}
+variable (x : ι → A)
```
Comment (alreadydone) [inline Mathlib/RingTheory/AlgebraicIndependent/Defs.lean:50]:
```suggestion
variable {ι ι' : Type*} (R : Type*) {K A A' : Type*} (x : ι → A)
```

File: Mathlib/RingTheory/AlgebraicIndependent/Defs.lean [hunk 5]
```diff
@@ -0,0 +1,163 @@
...
+
+theorem AlgebraicIndependent.mono {t s : Set A} (h : t ⊆ s)
+    (hx : AlgebraicIndependent R ((↑) : s → A)) : AlgebraicIndependent R ((↑) : t → A) := by
+  simpa [Function.comp] using hx.comp (inclusion h) (inclusion_injective h)
+
+end Subtype
+
+namespace AlgebraicIndependent
+
+section repr
```
Comment (alreadydone) [inline Mathlib/RingTheory/AlgebraicIndependent/Defs.lean:125]: Do we need this section?

File: Mathlib/RingTheory/AlgebraicIndependent/Defs.lean [hunk 6]
```diff
@@ -0,0 +1,163 @@
...
+  into the polynomial ring. -/
+def repr : Algebra.adjoin R (range x) →ₐ[R] MvPolynomial ι R :=
+  hx.aevalEquiv.symm
+
+@[simp]
+theorem aeval_repr (p) : aeval x (hx.repr p) = p :=
+  Subtype.ext_iff.1 (AlgEquiv.apply_symm_apply hx.aevalEquiv p)
+
+theorem aeval_comp_repr : (aeval x).comp hx.repr = Subalgebra.val _ :=
+  AlgHom.ext <| hx.aeval_repr
```
Comment (alreadydone) [inline Mathlib/RingTheory/AlgebraicIndependent/Defs.lean:152]:
```suggestion
  AlgHom.ext hx.aeval_repr
```

File: Mathlib/RingTheory/AlgebraicIndependent/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,400 @@
...
+-/
+
+
+noncomputable section
+
+open Function Set Subalgebra MvPolynomial Algebra
+
+open scoped Classical
+
+universe u v w
```
Comment (alreadydone) [inline Mathlib/RingTheory/AlgebraicIndependent/Basic.lean:38]: It would be good to check which of these are actually used in each file. I think `u v w` are not used in this file.

File: Mathlib/RingTheory/AlgebraicIndependent/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,400 @@
...
+
+variable {ι : Type*} {ι' : Type*} (R : Type*) {K : Type*}
+variable {A : Type*} {A' : Type*}
+variable (x : ι → A)
+variable [CommRing R] [CommRing A] [CommRing A'] [Algebra R A] [Algebra R A']
+
+variable {R} {x}
```
Comment (alreadydone) [inline Mathlib/RingTheory/AlgebraicIndependent/Basic.lean:45]:
```suggestion
variable {ι ι' R K A A' : Type*} {x : ι → A}
variable [CommRing R] [CommRing A] [CommRing A'] [Algebra R A] [Algebra R A']
```

File: Mathlib/RingTheory/AlgebraicIndependent/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,400 @@
...
+
+variable (hx : AlgebraicIndependent R x)
+include hx
+
+theorem repr_ker : RingHom.ker (hx.repr : adjoin R (range x) →+* MvPolynomial ι R) = ⊥ :=
+  (RingHom.injective_iff_ker_eq_bot _).1 (AlgEquiv.injective _)
+
+end repr
+
+end AlgebraicIndependent
```
Comment (alreadydone) [inline Mathlib/RingTheory/AlgebraicIndependent/Basic.lean:322]:
```suggestion
theorem AlgebraicIndependent.repr_ker (hx : AlgebraicIndependent R x) :
    RingHom.ker (hx.repr : adjoin R (range x) →+* MvPolynomial ι R) = ⊥ :=
  (RingHom.injective_iff_ker_eq_bot _).1 (AlgEquiv.injective _)
```
(untested)

File: Mathlib/RingTheory/AlgebraicIndependent/Defs.lean [hunk 10]
```diff
@@ -0,0 +1,163 @@
...
+
+section Subtype
+
+theorem AlgebraicIndependent.mono {t s : Set A} (h : t ⊆ s)
+    (hx : AlgebraicIndependent R ((↑) : s → A)) : AlgebraicIndependent R ((↑) : t → A) := by
+  simpa [Function.comp] using hx.comp (inclusion h) (inclusion_injective h)
+
+end Subtype
+
+namespace AlgebraicIndependent
```
Comment (alreadydone) [inline Mathlib/RingTheory/AlgebraicIndependent/Defs.lean:123]:
```suggestion
namespace AlgebraicIndependent

theorem mono {t s : Set A} (h : t ⊆ s)
    (hx : AlgebraicIndependent R ((↑) : s → A)) : AlgebraicIndependent R ((↑) : t → A) := by
  simpa [Function.comp] using hx.comp (inclusion h) (inclusion_injective h)
```

File: Mathlib/RingTheory/AlgebraicIndependent/RankAndCardinality.lean [hunk 11]
```diff
@@ -0,0 +1,104 @@
...
+open scoped Classical
+
+universe u v w
+
+variable {ι : Type*} {ι' : Type*} (R : Type*) {K : Type*}
+variable {A : Type*} {A' : Type*}
+variable (x : ι → A)
+variable [CommRing R] [CommRing A] [CommRing A'] [Algebra R A] [Algebra R A']
+
+variable {R} {x}
```
Comment (alreadydone) [inline Mathlib/RingTheory/AlgebraicIndependent/RankAndCardinality.lean:43]: unused
```suggestion
```

File: Mathlib/RingTheory/AlgebraicIndependent/RankAndCardinality.lean [hunk 12]
```diff
@@ -0,0 +1,104 @@
...
+
+open AlgebraicIndependent
+
+section RankAndCardinality
```
Comment (alreadydone) [inline Mathlib/RingTheory/AlgebraicIndependent/RankAndCardinality.lean:47]: A section with the same name as the file probably doesn't serve a purpose ...

File: Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean [hunk 13]
```diff
@@ -0,0 +1,132 @@
...
+open scoped Classical
+
+universe u v w
+
+variable {ι : Type*} {ι' : Type*} (R : Type*) {K : Type*}
+variable {A : Type*} {A' : Type*}
+variable (x : ι → A)
+variable [CommRing R] [CommRing A] [CommRing A'] [Algebra R A] [Algebra R A']
+
+variable {x}
```
Comment (alreadydone) [inline Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:44]: not sure why `R` is explicit in `exists_isTranscendenceBasis`.
```suggestion
variable {ι ι' : Type*} (R : Type*) {K A A' : Type*}
variable {x : ι → A}
variable [CommRing R] [CommRing A] [CommRing A'] [Algebra R A] [Algebra R A']
```

File: Mathlib/RingTheory/AlgebraicIndependent/Transcendental.lean [hunk 14]
```diff
@@ -0,0 +1,156 @@
...
+open scoped Classical
+
+universe u v w
+
+variable {ι : Type*} {ι' : Type*} (R : Type*) {K : Type*}
+variable {A : Type*} {A' : Type*}
+variable (x : ι → A)
+variable [CommRing R] [CommRing A] [CommRing A'] [Algebra R A] [Algebra R A']
+
+variable {R} {x}
```
Comment (alreadydone) [inline Mathlib/RingTheory/AlgebraicIndependent/Transcendental.lean:37]: I'd guess K, ι' and A' may not be used in every file ...
```suggestion
variable {ι ι' R K A A' : Type*} {x : ι → A}
variable [CommRing R] [CommRing A] [CommRing A'] [Algebra R A] [Algebra R A']
```

**Review by alreadydone — CHANGES_REQUESTED** [review]
Thanks for the effort!

File: Mathlib/RingTheory/AlgebraicIndependent/Defs.lean (hunk 5 above)
Comment (Vierkantor) [reply Mathlib/RingTheory/AlgebraicIndependent/Defs.lean:123]: I'd argue this is worth keeping, both for guiding the reader and for delimiting where we have `hx` as an assumption.

**Review by alreadydone — APPROVED** [review]
Thanks 🎉 
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
